US04950674
1-(Phenylmethyl)-3-piperidinecarboxylic acid ethyl ester hydrobromide [1:1]
To a stirred mixture of 35.4 g (0.225 mole) of (±) ethylnipecotate and 31.8 g (0.3 mole) of anhydrous sodium carbonate in 300 ml of absolute ethanol was added dropwise 41 g (0.24 mole) of benzylbromide and the mixture was stirred at ambient temperature for 24 hr. The mixture was filtered and the filtrate was concentrated. The residue was partitioned between 250 ml of methylene chloride and 250 ml of a 5% sodium hydroxide solution. The organic layer was washed with brine, dried over sodium sulfate, and concentrated to give a gummy residue. The residue was triturated with ethyl ether, filtered, and the filtrate treated with hydrogen bromide gas. The solid which precipitated was collected by filtration and recrystallized from 2-propanol to yield 35.0 g (47%) of the title compound as a white solid, mp 148°-152° C.

reactant | (±) ethylnipecotate | 0.225 mole, 35.4 g | C(C)OC(C1CNCCC1)=O | C8H15NO2
reactant | sodium carbonate | 0.3 mole, 31.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | benzylbromide | 0.24 mole, 41 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 1-(Phenylmethyl)-3-piperidinecarboxylic acid ethyl ester hydrobromide | 35.0 g, 47% | Br.C(C)OC(=O)C1CN(CCC1)CC1=CC=CC=C1 | InChI=1S/C15H21NO2.BrH/c1-2-18-15(17)14-9-6-10-16(12-14)11-13-7-4-3-5-8-13;/h3-5,7-8,14H,2,6,9-12H2,1H3;1H
